US05045550
A solution of methyl nicotinate (59 g, 0.43 mol), 4-hydroxybutyric acid lactone (51.8 g, 0.602 mol), and sodium methoxide (70 g, 1.29 mol) in dioxane (500 mL) is refluxed for 1 hour and then cooled. Concentrated hydrochloric acid (650 mL) is added, and the reaction mixture is refluxed for 12 hours. The resulting solution is neutralized with solid sodium bicarbonate and extracted with chloroform. The organic phase is dried (sodium sulfate), and the solvent evaporated in vacuo. The residue is taken up in 2-propanol (50 mL) and treated with a saturated solution of hydrogen chloride in 2-propanol. The hydrochloride salt of 4-chloro-1-(3-pyridinyl)-1-butanone is obtained as a white solid (30 g); mp 73°-76° C.

reactant | methyl nicotinate | 0.43 mol, 59 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | 4-hydroxybutyric acid lactone | 0.602 mol, 51.8 g | C1CC(=O)OC1 | C4H6O2
reactant | sodium methoxide | 1.29 mol, 70 g | C[O-].[Na+]
reactant | hydrochloric acid | 650 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-1-(3-pyridinyl)-1-butanone | ClCCCC(=O)C=1C=NC=CC1 | C9H10ClNO
